US05405854
A solution of 130g of 1,1-dimethylethyl (4-piperidinyl-methyl)-carbamate in 1300 ml of DMF is treated with 138 ml of triethylamine and 61.8 g of formamidinesulfonic acid and the mixture is stirred at room temperature overnight. The precipitated material is filtered, suspended in 500 ml of ethanol, again filtered off and dried. There are obtained 65.6 g of tert-butyl 1-(amino-imino-methyl)-piperidin-4-ylmethylcarbamate hemisulfite, MS (ISP): 257.4 (M+H)+.

reactant | 1,1-dimethylethyl (4-piperidinyl-methyl)-carbamate | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | triethylamine | 138 ml | C(C)N(CC)CC | C6H15N
reactant | formamidinesulfonic acid | 61.8 g | C(=N)(N)S(=O)(=O)O | CH4N2O3S
solvent | DMF | 1300 ml | CN(C)C=O | C3H7NO
product | tert-butyl 1-(amino-imino-methyl)-piperidin-4-ylmethylcarbamate hemisulfite | 65.6 g | S(=O)(O)O.NC(N1CCC(CC1)CNC(OC(C)(C)C)=O)=N.C(C)(C)(C)OC(NCC1CCN(CC1)C(N)=N)=O | InChI=1S/2C12H24N4O2.H2O3S/c2*1-12(2,3)18-11(17)15-8-9-4-6-16(7-5-9)10(13)14;1-4(2)3/h2*9H,4-8H2,1-3H3,(H3,13,14)(H,15,17);(H2,1,2,3)
